US08648099B2
a) 5-Cyclopropyl-6-(2,2,2-trifluoro-ethoxy)-nicotinic acid methyl ester
In a 50 mL two-necked flask, methyl 5-bromo-6-(2,2,2-trifluoroethoxy)nicotinate (1 g, 3.18 mmol, Eq: 1.00, CAN 1211589-51-3) and cesium carbonate (3.11 g, 9.55 mmol, Eq: 3) were combined with toluene (25 ml) and water (2.8 ml) to give a colorless solution. The reaction mixture was 3× degassed and purged with argon, then palladium(II) acetate (14.3 mg, 63.7 μmol, Eq: 0.02), potassium cyclopropyltrifluoroborate (518 mg, 3.5 mmol, Eq: 1.1) and butyldi-1-adamantylphosphine (68.5 mg, 191 μmol, Eq: 0.06) were successively added and the reaction mixture was heated to 120° C. for 5 h when TLC indicated that the reaction was complete. The mixture was cooled to rt, poured into 50 ml H2O and extracted with AcOEt (2×50 ml). The organic layers were washed with H2O/NaCl sol, combined, dried over Na2SO4 and concentrated in vacuo. Purification by flash chromatography (silica gel, 70 g, 0% to 20% EtOAc in heptane) yielded eventually 836 mg of the title compound as light yellow semisolid; MS (EI) 276.0 (M+H)+.

reactant | methyl 5-bromo-6-(2,2,2-trifluoroethoxy)nicotinate | 3.18 mmol, 1 g | BrC=1C(=NC=C(C(=O)OC)C1)OCC(F)(F)F | C9H7BrF3NO3
reactant | cesium carbonate | 9.55 mmol, 3.11 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
reactant | potassium cyclopropyltrifluoroborate | 3.5 mmol, 518 mg | C1(CC1)[B-](F)(F)F.[K+]
catalyst | palladium(II) acetate | 63.7 μmol, 14.3 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | butyldi-1-adamantylphosphine | 191 μmol, 68.5 mg | C(CCC)P(C12CC3CC(CC(C1)C3)C2)C23CC1CC(CC(C2)C1)C3 | C24H39P
solvent | H2O | 50 ml | O | H2O
solvent | water | 2.8 ml | O | H2O
product | 5-Cyclopropyl-6-(2,2,2-trifluoro-ethoxy)-nicotinic acid methyl ester | 836 mg | COC(C1=CN=C(C(=C1)C1CC1)OCC(F)(F)F)=O | C12H12F3NO3
